US09238640B2
To a stirred solution of 2-amino-4-methoxy-benzoic acid (3.00 g, 17.9 mmol) in THF (90 mL), EDCl (7.89 g, 41.1 mmol) and HOBt (7.95 g, 51.9 mmol) were added and stirred at room temperature for 30 minutes. Then, N-methylmorpholine (6.15 g, 60.0 mmol) and aqueous 50% (v/v) NH4OH (12 mL, 171.4 mmol) were added. The mixture was stirred for 16 hours at room temperature. The solvent was removed under reduced pressure and the residue was extracted with ethyl acetate (4×100 mL). The combined organic phase was washed with water, then brine, and dried over anhydrous sodium sulfate. Solvent was evaporated to give 2-amino-4-methoxy-benzamide as an off-white solid. Yield: 1.80 g, (60%).

reactant | 2-amino-4-methoxy-benzoic acid | 17.9 mmol, 3.00 g | NC1=C(C(=O)O)C=CC(=C1)OC | C8H9NO3
reactant | EDCl | 41.1 mmol, 7.89 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 51.9 mmol, 7.95 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 60.0 mmol, 6.15 g | CN1CCOCC1 | C5H11NO
reactant | NH4OH | 171.4 mmol, 12 mL | [NH4+].[OH-]
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 2-amino-4-methoxy-benzamide | NC1=C(C(=O)N)C=CC(=C1)OC | C8H10N2O2
